US05891909
a) 3-(3-Fluorophenylsulfonyloxy)-5-methylphenol
To a solution of 0.704 g (5.67 mmol) of orcinol monohydrate and 1.00 g (5.15 mmol) of 3-fluorobenzenesulfonyl chloride in 25 mL of diethyl ether was added 25 mL of saturated aqueous NaHCO3 and the biphasic mixture was stirred vigorously at ambient temperature for 3 days. The layers were separated and the aqueous layer extracted with 2×30 mL of ethyl acetate. The combined organic layers were washed with 50 mL of brine, dried (Na2SO4) and concentrated to 1.41 g of a pale amber-colored oil. This material was flash chromatographed on 65 g of silica gel with 3% ethyl acetate-dichloromethane to afford 935 mg (68%) of the desired product as a colorless syrup: 1H-NMR (300 MHz; CDCl3) δ 7.66 (ddd, 1H, J=7.8, 1.7, 1.1 Hz), 7.55 (m, 2H), 7.38 (tdd, 1H, J=8.3, 2.6, 1.1 Hz), 6.56 (m, 1H), 6.40 (m, 1H), 6.33 (td, 1H, J=2.2, 0.5 Hz), 5.29 (s, 1H) and 2.23 (s, 3H).

reactant | orcinol monohydrate | 5.67 mmol, 0.704 g | O.C1(=CC(O)=CC(C)=C1)O
reactant | 3-fluorobenzenesulfonyl chloride | 5.15 mmol, 1.00 g | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | 3-(3-Fluorophenylsulfonyloxy)-5-methylphenol | 935 mg, 68% | FC=1C=C(C=CC1)S(=O)(=O)OC=1C=C(C=C(C1)C)O | C13H11FO4S
